US09422287B2
Methyl 2-(3-phenyl-9H-carbazolyl)benzoate
85 g (350 mmol) of 3-phenyl-9H-carbazole, 63 ml (262 mmol) of methyl 2-iodobenzoate, 20 g (315 mmol) of copper powder, 87 g (631 mmol) of potassium carbonate and 9.3 g (35 mmol) of 18-crown-6 are initially introduced in 1200 ml of DMF under a protective gas and heated at 1300° C. for 86 h. The mixture is subsequently evaporated and washed by stirring with hot heptane and purified by chromatography (heptane, dichloromethane 1:1). The product is washed by stirring with hot hexane, and the solid is isolated.

reactant | 3-phenyl-9H-carbazole | 350 mmol, 85 g | C1(=CC=CC=C1)C=1C=CC=2NC3=CC=CC=C3C2C1 | C18H13N
reactant | methyl 2-iodobenzoate | 262 mmol, 63 ml | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
reactant | potassium carbonate | 631 mmol, 87 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 35 mmol, 9.3 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 1200 ml | CN(C)C=O | C3H7NO
catalyst | copper | 315 mmol, 20 g | [Cu] | Cu
product | Methyl 2-(3-phenyl-9H-carbazolyl)benzoate | C1(=CC=CC=C1)C=1C=C(C=2NC3=CC=CC=C3C2C1)C1=C(C(=O)OC)C=CC=C1 | C26H19NO2
